US06331538B1
3-Benzyloxy-6-fluoro-1-(2-fluorophenyl)-7-pyrrolidin-1-yl-1H-pyrido[2,3-d]pyrimidine-2,4-dione
Using the method of Example N-4, pyrrolidine (0.04 mL, 0.52 mmol), 3-benzyloxy-7-chloro-6-fluoro-1-(2-fluorophenyl)-1H-pyrido[2,3-d]pyrimidine-2,4-dione (Example R-2, 0.15 g, 0.42 mmol) and triethylamine (0.36 mL, 2.6 mmol) were combined in 20 mL of acetonitrile to give 0.16 g of the title compound as a solid, mp 221-222° C.

reactant | pyrrolidine | 0.52 mmol, 0.04 mL | N1CCCC1 | C4H9N
reactant | 3-benzyloxy-7-chloro-6-fluoro-1-(2-fluorophenyl)-1H-pyrido[2,3-d]pyrimidine-2,4-dione | 0.42 mmol, 0.15 g | C(C1=CC=CC=C1)ON1C(N(C2=C(C1=O)C=C(C(=N2)Cl)F)C2=C(C=CC=C2)F)=O | C20H12ClF2N3O3
reactant | triethylamine | 2.6 mmol, 0.36 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 3-Benzyloxy-6-fluoro-1-(2-fluorophenyl)-7-pyrrolidin-1-yl-1H-pyrido[2,3-d]pyrimidine-2,4-dione | 0.16 g | C(C1=CC=CC=C1)ON1C(N(C2=C(C1=O)C=C(C(=N2)N2CCCC2)F)C2=C(C=CC=C2)F)=O | C24H20F2N4O3
